US08008293B2
Synthesis of (2R,5S)-5-(3,4-difluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester
10% palladium on carbon (1.2 g, 50% water content) was added to an ethanol (160 mL) solution of (R)-5-(3,4 difluorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester (12.2 g), and under a hydrogen atmosphere, stirring was continued for 16 hours at room temperature. The catalyst was filtered on celite, and the filtrate was concentrated, and ethanol (160 mL) and 10% palladium on carbon (1.2 g, 50% water content) was again added to the residue, and under a hydrogen atmosphere, stirring was continued for 15 hours at room temperature. The catalyst was filtered on celite, and the filtrate was concentrated, and the residue was purified by silica gel column chromatography (heptane/ethyl acetate), and the title compound (8.86 g) was obtained. The physical property values are as follows.

reactant | (R)-5-(3,4 difluorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester | 12.2 g | C(C)OC(=O)[C@@H]1N=C(CC1)C1=CC(=C(C=C1)F)F | C13H13F2NO2
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | (2R,5S)-5-(3,4-difluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 8.86 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC(=C(C=C1)F)F | C13H15F2NO2
